US07906660B2
A mixture of 7-hydroxy-4′-methoxyisoflavanone (2.0 g, 7.5 mmol), acetic anhydride (10 ml) and pyridine (2 ml) was heated on an oil bath at 105-110 C. for 1 hour. After cooling the mixture to room temperature, it was poured into water (100 ml), stirred for 2 hours and then extracted with dichloromethane (3×50 ml). The dichloromethane layer was washed with water, dried over anhydrous sodium sulfate and evaporated. The white residue was crystallised from methanol to yield 7-acetoxy-4′-methoxyisoflavone as colourless prisms (2.1 g, 91%). 1H NMR (CDCl3): δ 2.36 (s, 3H, OCOCH3), 3.84 (s, 3H, OCH3), 6.98 (d, 2H, J 8.7 Hz, ArH), 7.16 (dd, 1H, J 1.9 Hz 8.6 Hz, H6), 7.30 (d, 1H, J 1.9 Hz H8), 7.50 (d, 2H, J 8.7 Hz, ArH), 8.00 (s, 1H, H2), 8.32 (d, 1H, J 8.6 Hz, H5).

reactant | 7-hydroxy-4′-methoxyisoflavanone | 7.5 mmol, 2.0 g | OC1=CC=C2C(C(COC2=C1)C1=CC=C(C=C1)OC)=O | C16H14O4
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 100 ml | O | H2O
product | 7-acetoxy-4′-methoxyisoflavone | 2.1 g, 91% | C(C)(=O)OC1=CC=C2C(C(=COC2=C1)C1=CC=C(C=C1)OC)=O | C18H14O5
